US04935413
Glycidol (2.13 g; 28.8 mmol) was dissolved in dry chloroform (20 ml) under ice-cooling, and a solution of methacryloyl isocyanate (3.2 g; 28.8 mmol) in 1,2-dichloroethane (20 ml) was dropwise added thereto under nitrogen stream. After completion of the addition, chloroform and 1,2-dichloroethane were evaporated under reduced pressure to give glycidyl N-methacryloylcarbamate (5.33 g) as a viscous, colorless oil. Viscosity, 3260 cp.

reactant | Glycidol | 28.8 mmol, 2.13 g | C1C(O1)CO | C3H6O2
reactant | methacryloyl isocyanate | 28.8 mmol, 3.2 g | C(C(=C)C)(=O)N=C=O | C5H5NO2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | glycidyl N-methacryloylcarbamate | 5.33 g | C(C(=C)C)(=O)NC(OCC1CO1)=O | C8H11NO4
